US09403801B2
Step 1) tert-butyl 8-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a solution of 2,4-dichloro-5-methylpyrimidine (585.5 g, 3.59 mmol) and tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate (1.08 g, 4.24 mmol) in EtOH (10 mL) was added Et3N (722.3 mg, 7.14 mmol) and the reaction mixture was stirred at rt for 48 h then concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/2) to give the title compound as yellow oil (1.04 g, 76.0%).

reactant | 2,4-dichloro-5-methylpyrimidine | 3.59 mmol, 585.5 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tert-butyl 8-amino-2-azaspiro[4.5]decane-2-carboxylate | 4.24 mmol, 1.08 g | NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C14H26N2O2
reactant | Et3N | 7.14 mmol, 722.3 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-butyl 8-((2-chloro-5-methylpyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.04 g, 76.0% | ClC1=NC=C(C(=N1)NC1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C19H29ClN4O2
